* G:\My Drive\Graduate Reserach\LTSpice\SC Fibb\AURA\SC_FIB_AURA_DL34.asc
M1 N001 NC_01 N006 N006 NMOS
M2 N006 NC_02 N015 N015 NMOS
M3 N003 NC_03 N001 N001 NMOS
M4 N015 NC_04 N026 N026 NMOS
M5 N026 NC_05 0 0 NMOS
M6 0 NC_06 N028 N028 NMOS
M7 N002 NC_07 N010 N010 NMOS
M8 N010 NC_08 N015 N015 NMOS
M9 N015 NC_09 N022 N022 NMOS
M10 N022 NC_10 N027 N027 NMOS
M11 N003 NC_11 N005 N005 NMOS
M12 N005 NC_12 N014 N014 NMOS
M13 N002 NC_13 N003 N003 NMOS
M14 N016 NC_14 N024 N024 NMOS
M15 N024 NC_15 N028 N028 NMOS
M16 N028 NC_16 N027 N027 NMOS
V1 N008 N020 12
V2 N011 N015 4
V3 N019 0 4
R1 N001 N011 5m
R2 N015 N019 5m
R3 N008 N009 5m
R4 N020 N021 5m
L1 N009 N010 100n
L2 N021 N022 100n
C1 N006 N007 5µ
C2 N025 N026 5µ
C3 N004 N005 2.5µ
C4 N024 N023 2.5µ
C5 N001 N013 2µ
C6 N015 N018 2µ
R5 N007 N003 3m
R6 N004 N002 3m
R7 N028 N025 3m
R8 N027 N023 3m
R9 N013 N015 2m
R10 N018 0 2m
D1 N006 N001 D
D2 N015 N006 D
D3 N001 N003 D
D4 N026 N015 D
D5 0 N026 D
D6 N028 0 D
D7 N010 N002 D
D8 N015 N010 D
D9 N022 N015 D
D10 N027 N022 D
D11 N005 N003 D
D12 N014 N005 D
D13 N003 N002 D
D14 N024 N016 D
D15 N028 N024 D
D16 N027 N028 D
L3 N017 0 1
L4 N016 N012 1
R11 N014 N017 1
R12 N001 N012 1
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
